Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]#[C:5][H:6]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.91566191216
[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]>>[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.21216368306
[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:7].[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[O:11][H:12],4.993847780369999
[H:1][C:2]=[C:3]([H:4])[C@:8]([C:5]([H:6])[H:7])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2][C@:3]1([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-0.3168555563099999
[C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-5.66804549849
[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])=[C:8]([H:9])[H:10],3.311868693
[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([H:3])[C:5](=[O:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:4],1.6835829136000002
[C:5][O:10][H:11].[H:1][C:2]/[C:3]([H:4])=[C:7](\[H:6])[O:8][H:9]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11],-2.38073762168
[O:1]=[C:2]([C:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2](#[C:3][H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],2.75527397274
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]([H:10])([O:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16],-4.67336067947
[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:9][H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:9][H:10],-7.242260805110003
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[O:10]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:9]=[O:10].[H:8],2.49441561015
[C:10]([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-4.85192198066
[H:1].[O:2][C:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.64327061332
[C:6]([H:7])([H:8])=[C:9]([H:10])[O:11][H:12].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12],0.946782372
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])[H:8].[O:9][O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14],-2.88986861539
[C:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[C:6][C:9]([H:10])([H:11])[H:12].[O:7][H:8],6.255211124369999
[C:7]([H:8])#[C:9][C:10]([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[C:5][H:6]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]=[C:10]([H:11])[H:12],-4.07821601029
[H:9].[O:1]=[C:2]([H:3])[O:4][C:5][C:6]#[C:7][H:8]>>[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])[H:9],-4.32424480178
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],3.78169174852
[C:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],3.27969080085
[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4]([H:5])[H:6].[O:1]=[C:2]([O:3])[C:7]([H:8])([H:9])[H:10],5.17701758924
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](/[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],2.62439601099
[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])\[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-5.48755213877
[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]#[C:9][H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[C:11]([H:12])[H:13],-5.447380131880001
[H:1][O:2]/[C:3]([H:4])=[C:5]1/[O:6][C@@:7]1([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],2.3280784905900003
[H:5].[O:1][O:2]/[C:3]([H:4])=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-3.0429142871200003
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-2.93621107624
